US08871756B2
2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-N-(trans-4-fluoropyrrolidin-3-yl)-6-methylquinolin-4-amine
To a suspension of benzyl trans-3-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]amino}-4-fluoropyrrolidine-1-carboxylate (320 mg, 0.557 mmol) in methanol (5 mL) was added an aqueous solution of potassium hydroxide (40%, 5 mL). The suspension was heated under reflux for 30 minutes. The organic solvent was removed by concentration in vacuo. The residue was purified by preparative HPLC to afford the pure product as a solid. MS obsd. (ESI+) [(M+H)+] 441, 1H NMR (400 MHz, CD3OD) δ ppm 8.01 (d, J=6.57 Hz, 1 H), 7.85 (d, J=7.33 Hz, 1 H), 7.67 (s, 1 H), 7.63 (t, J=7.07 Hz, 1 H), 7.53-7.40 (m, 2 H), 7.30 (d, J=8.84 Hz, 1 H), 6.18 (s, 1 H), 5.15 (s, 2 H), 5.10 (brs, 1 H), 4.97 (brs, 1 H), 3.60 (dd, J=12.00, 6.44 Hz, 3 H), 3.28 (brs, 1 H), 3.23 (dd, J=8.84, 5.31 Hz, 1 H), 3.18-3.12 (m, 1 H), 3.04 (dd, J=12.00, 4.67 Hz, 1 H), 2.42 (s, 3 H).

reactant | benzyl trans-3-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]amino}-4-fluoropyrrolidine-1-carboxylate | 0.557 mmol, 320 mg | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)N[C@@H]2CN(C[C@H]2F)C(=O)OCC2=CC=CC=C2)C)=O | C31H31FN4O4S
reactant | potassium hydroxide | 5 mL | [OH-].[K+]
solvent | methanol | 5 mL | CO | CH4O
product | 2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-N-(trans-4-fluoropyrrolidin-3-yl)-6-methylquinolin-4-amine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)N[C@@H]2CNC[C@H]2F)C)=O | C23H25FN4O2S
